US06855710B2
a) 4-(Azetidin-1-yl-methyl)-nitrobenzene
6.2 g (41 mmol) of 4-nitrobenzaldehyde and 3.8 g (40.6 mmol) of azetidine-hydrochloride are dissolved in 120 ml of ethanol. 2.6 g (41 mmol) of sodium cyanoborohydride are added at 0° C. The mixture is slowly heated to ambient temperature and then stirred for 18 hours. Then the solvent is eliminated in vacuo, the residue is taken up in ethyl acetate and washed with water. The solvent is eliminated in vacuo and after chromatography of the residue on silica gel (ethyl acetate/methanol/NH4OH=95:5:0.5) a light brown oil is obtained.

reactant | 4-nitrobenzaldehyde | 41 mmol, 6.2 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | azetidine-hydrochloride | 40.6 mmol, 3.8 g | Cl.N1CCC1
reactant | sodium cyanoborohydride | 41 mmol, 2.6 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Azetidin-1-yl-methyl)-nitrobenzene | N1(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O2
